Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])#[C:6].[H:1][C:2]=[C:3]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],6.26535486694
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],4.61610945453
[H:1].[O:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13],-1.27737304074
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][H:11].[O:9]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[C:10][H:11],-2.71199646488
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[O:7][H:8]>>[C:3][C:4]([H:5])([H:6])[O:7][H:8].[O:1]=[C:2],3.34278349028
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][O:3][C:4][H:5].[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],4.74404017434
[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10],-5.38758413794
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12][H:13]>>[H:1][C:2]1=[C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12]1[H:13],-1.54072614187
[C:1].[C:2][O:3][C:4]#[C:5][H:6]>>[C:1]#[C:2][O:3][C:4]#[C:5][H:6],-5.75759381029
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10]>>[C:5]#[C:6][O:7][C:8]([H:9])[H:10].[H:1][C:2]#[C:3][H:4],2.32027659846
[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-2.99128553845
[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.6879499406
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7],3.73066408106
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],6.12919893628
[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:9]([H:10])([H:11])[H:12].[H:8],2.14932761793
[C:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-5.455950228609999
[C:3]#[C:4][C:5]([H:6])([H:7])[H:8].[H:1][C:2][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-6.91708257772
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8].[H:9]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][H:9],-3.58393715254
[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]([H:10])([O:11][H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16],-4.5883680707
[H:1][O:2][C:3][C@:4]1([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[O:11][H:12]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:9]([C:6]([H:7])[H:8])([H:10])[O:11][H:12],1.36224694815
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])[C:4]1=[C:5]([H:6])[C:7]1([H:8])[H:9],1.22758549557
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1],4.2178829936
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7][O:8][H:9])[O:10][H:11]>>[C:5](\[H:6])(=[C:7]\[O:8][H:9])[O:10][H:11].[H:1][C:2]#[C:3][H:4],-0.12751488497000002
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.48463249527
[C:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8]>>[C:1][O:2][C:3]=[C:4]=[O:5].[C:6]([H:7])[H:8],1.82421634124
[H:1][C:2](=[C:3]([H:4])[H:5])[C:8]([O:7][O:6])([H:9])[H:10]>>[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][O:7][C:8]1([H:9])[H:10],-0.0328773381998
[H:1]/[C:2]([C:3]([H:4])=[C:5]=[O:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]1[C:3]([H:4])=[C:5][O:6][C@:7]1([H:8])[C:9]([H:10])([H:11])[H:12],1.6088436113299998
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7]>>[C:2]([O:3][H:4])=[C:5]([H:6])[H:7].[O:1],6.33541893732
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.93632210824
[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[O:5][H:6],4.3343256797
